US07045539B2
4-Methyl-6-methoxy-2-(4-methoxy-phenyl)-benzothiazole (174 mg, 0.61 mmol) was treated with boron tribromide under standard condition to give 4-methyl-6-hydroxy-2-(4-hydroxy-phenyl)-benzothiazole (105 mg, 67% yield) as a yellow solid. Mass spec: MH+=258.

reactant | 4-Methyl-6-methoxy-2-(4-methoxy-phenyl)-benzothiazole | 0.61 mmol, 174 mg | CC1=CC(=CC2=C1N=C(S2)C2=CC=C(C=C2)OC)OC | C16H15NO2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 4-methyl-6-hydroxy-2-(4-hydroxy-phenyl)-benzothiazole | 105 mg, 67% yield | CC1=CC(=CC2=C1N=C(S2)C2=CC=C(C=C2)O)O | C14H11NO2S
